US04031226
A mixture of 8.7 parts of 4-fluoro-N-{2-[4-(2,3-dihydro-2-oxo- 1H-benzimidazol-1-yl)-1-piperidinyl] ethyl}-2-nitrobenzamide and 120 parts of methanol is hydrogenated at normal pressure and at room temperature with 2 parts of Raney-nickel catalyst. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The residue is crystallized from a mixture of methanol and 2-propanol. The product is filtered off and dried, yielding 4.5 parts of 2-amino-N-{2-[4-(2,3-dihydro-2-oxo- 1H-benzimidazol-1-yl)-1-piperidinyl] ethyl}-4-fluorobenzamide; mp. 229.3° C.

reactant | 4-fluoro-N-{2-[4-(2,3-dihydro-2-oxo- 1H-benzimidazol-1-yl)-1-piperidinyl] ethyl}-2-nitrobenzamide | FC1=CC(=C(C(=O)NCCN2CCC(CC2)N2C(NC3=C2C=CC=C3)=O)C=C1)[N+](=O)[O-] | C21H22FN5O4
reactant | hydrogen | [H][H] | H2
catalyst | Raney-nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | 2-amino-N-{2-[4-(2,3-dihydro-2-oxo- 1H-benzimidazol-1-yl)-1-piperidinyl] ethyl}-4-fluorobenzamide | NC1=C(C(=O)NCCN2CCC(CC2)N2C(NC3=C2C=CC=C3)=O)C=CC(=C1)F | C21H24FN5O2
